US03998834
260 parts of propanoic acid anhydride are added dropwise to 93 parts of propyl 4-(phenylamino)-1-(phenylmethyl)-4-piperidinecarboxylate while cooling in a water-bath. Upon completion, the whole is stirred and refluxed for 6 hours. After cooling, the reaction mixture is poured onto water, alkalized with ammonium hydroxide and the product is extracted with trichloromethane. The extract is washed with water, dried, filtered and evaporated. The residue is dissolved in petroleumether. The solution is filtered and the filtrate is evaporated. The oily residue is converted into the ethanedioate salt in 2-propanone. The salt is filtered off and crystallized from a mixture of 2-propanone and ethanol (10:1 by volume), yielding propyl 4-[N-(1-oxopropyl)-N-phenylamino]-1-(phenylmethyl)-4-piperidinecarboxylate ethanedioate; mp. 169.7° C.

reactant | propanoic acid anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | propyl 4-(phenylamino)-1-(phenylmethyl)-4-piperidinecarboxylate | C1(=CC=CC=C1)NC1(CCN(CC1)CC1=CC=CC=C1)C(=O)OCCC | C22H28N2O2
reactant | ammonium hydroxide | [OH-].[NH4+]
product | propyl 4-[N-(1-oxopropyl)-N-phenylamino]-1-(phenylmethyl)-4-piperidinecarboxylate ethanedioate | C(C(=O)O)(=O)O.O=C(CC)N(C1=CC=CC=C1)C1(CCN(CC1)CC1=CC=CC=C1)C(=O)OCCC | InChI=1S/C25H32N2O3.C2H2O4/c1-3-19-30-24(29)25(27(23(28)4-2)22-13-9-6-10-14-22)15-17-26(18-16-25)20-21-11-7-5-8-12-21;3-1(4)2(5)6/h5-14H,3-4,15-20H2,1-2H3;(H,3,4)(H,5,6)
